US08426437B2
49 mg (0.36 mmol) of 1-hydroxybenzotriazole, 69 mg (0.36 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, 73 μL (0.66 mmol) of N-methylmorpholine and 40 μL (0.36 mmol) of N,N-dimethylethylenediamine are added to 75 mg (0.33 mmol) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 75) suspended in 0.7 ml of anhydrous dimethylformamide. The reaction mixture is stirred overnight at room temperature. The mixture is diluted with ethyl acetate (20 mL) and a saturated solution of sodium chloride (20 mL). The two phases are separated and the aqueous phase is extracted with ethyl acetate (3×20 mL). The organic phases are combined, washed with n aqueous solution of potassium carbonate (10%) (3×40 mL), water (40 mL) and a saturated solution of sodium chloride (50 mL), dried over magnesium sulfate and evaporated. The residue obtained is triturated in diethyl ether to give 13 mg (13%) of N-(2-dimethylamino-ethyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide in the form of a light brown solid.

reactant | 1-hydroxybenzotriazole | 0.36 mmol, 49 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.36 mmol, 69 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-methylmorpholine | 0.66 mmol, 73 μL | CN1CCOCC1 | C5H11NO
reactant | N,N-dimethylethylenediamine | 0.36 mmol, 40 μL | CN(CCN)C | C4H12N2
reactant | 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.33 mmol, 75 mg | O=C1NC=2C=CC=CC2C2=C1NC=C2C(=O)O | C12H8N2O3
reactant | sodium chloride | 20 mL | [Cl-].[Na+]
solvent | dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-dimethylamino-ethyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide | 13 mg, 13% | CN(CCNC(=O)C1=CNC=2C(NC=3C=CC=CC3C21)=O)C | C16H18N4O2
